**start
.INCLUDE  /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.PARAM

.SUBCKT Inverter1 IN OUT VDD VSS
MP0 OUT IN VDD VDD slvtpfet w=2u l=0.03u nf=5.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
MN0 OUT IN VSS VSS slvtnfet w=1u l=0.03u nf=5.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
.ENDS

.SUBCKT Inverter2 IN OUT VDD VSS
MP0 OUT IN VDD VDD slvtpfet w=4u l=0.03u nf=10.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
MN0 OUT IN VSS VSS slvtnfet w=2u l=0.03u nf=10.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
.ENDS

.SUBCKT TransmissionGate IN OUT S SB VDD VSS
MP0 IN SB OUT VDD slvtpfet w=1.2u l=0.03u nf=3.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
MN1 IN S OUT VSS slvtnfet w=0.6u l=0.03u nf=3.0 pccrit=1 plorient=1 ngcon=1 
+ p_la=0u ptwell=0
.ENDS

.SUBCKT D_FF CLK CLKb D Q Qb VDD VSS
XI2 net13 net16 VDD VSS / Inverter1
XI1 net11 net13 VDD VSS / Inverter1
XI8 Q Qb VDD VSS / Inverter2
XI9 net14 Q VDD VSS / Inverter2
XI12 Qb net14 CLKb CLK VDD VSS / TransmissionGate
XI5 net13 net14 CLK CLKb VDD VSS / TransmissionGate
XI11 net16 net11 CLK CLKb VDD VSS / TransmissionGate
XI3 D net11 CLKb CLK VDD VSS / TransmissionGate
.ENDS

